US09029399B2
Preparation of 1-(4-cyclopropylpyridin-3-yl)-3-(2,6-dichloropyridin-4-yl)imidazolidin-2-one (46A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 500 mg, 2.4630 mmol) was reacted with 2,6-dichloro-4-iodopyridine (810 mg, 2.9556 mmol), copper iodide (47 mg, 0.2463 mmol), trans-cyclohexane-1,2-diamine (0.089 mL, 0.7389 mmol), potassium phosphate (1.56 g, 7.3891 mmol) and 1,4-dioxane (10 mL) to afford crude product. Purification by column chromatography on silica gel (2% methanol in chloroform) afforded 800 mg of pure product (93.02% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 2.4630 mmol, 500 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 2,6-dichloro-4-iodopyridine | 2.9556 mmol, 810 mg | ClC1=NC(=CC(=C1)I)Cl | C5H2Cl2IN
reactant | trans-cyclohexane-1,2-diamine | 0.7389 mmol, 0.089 mL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | potassium phosphate | 7.3891 mmol, 1.56 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.2463 mmol, 47 mg | [Cu](I)I
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-(4-cyclopropylpyridin-3-yl)-3-(2,6-dichloropyridin-4-yl)imidazolidin-2-one | 800 mg, 93.02% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=CC(=NC(=C1)Cl)Cl)=O | C16H14Cl2N4O
